US06686352B2
4-(2-Amino-phenyl)-4-trimethlysilanyloxy-butyric Acid Ethyl Ester (Compound of Formula XXVI)
A solution of 4-(2-nitro-phenyl)-4-trimethlysilanyloxy-butyric acid ethyl ester (200 mg, 0.6 mmol) in dry EtOAc (5 mL) was hydrogenated (1 atm) in the presence of Pd/C (20 mg) overnight Then the mixture was filtered and evaporated. The residue was dissolve in dry MeOH (5 mL) and was further hydrogenated (1 atm) in the presence of Pd/C (20 mg) for 1 h. The mixture was then filtered and the filtrate evaporated. Purification of this residue by filtration over silica gel, eluting with hexane: ethyl acetate (8:1) afforded the title compound (130 mg, 72%) as a colorless oil; m/z 295 (M).

reactant | 4-(2-nitro-phenyl)-4-trimethlysilanyloxy-butyric acid ethyl ester | 0.6 mmol, 200 mg | C(C)OC(CCC(O[Si](C)(C)C)C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H23NO5Si
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 4-(2-Amino-phenyl)-4-trimethlysilanyloxy-butyric Acid Ethyl Ester | 130 mg, 72% | C(C)OC(CCC(O[Si](C)(C)C)C1=C(C=CC=C1)N)=O | C15H25NO3Si
